US08008298B2
[2-(3-Methoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-(1-methyl-cyclohexyl)-methanone was prepared starting from (2-bromo-5H-pyrrolo[2,3-b]pyrazin-7-yl)-(1-methyl-cyclohexyl)-methanone and 3-methoxyphenyl boronic acid following general procedures as described in these Examples. MP 173-175° C., M+H=350.

reactant | (2-bromo-5H-pyrrolo[2,3-b]pyrazin-7-yl)-(1-methyl-cyclohexyl)-methanone | BrC=1N=C2C(=NC1)NC=C2C(=O)C2(CCCCC2)C | C14H16BrN3O
reactant | 3-methoxyphenyl boronic acid | COC=1C=C(C=CC1)B(O)O | C7H9BO3
product | [2-(3-Methoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-(1-methyl-cyclohexyl)-methanone | COC=1C=C(C=CC1)C=1N=C2C(=NC1)NC=C2C(=O)C2(CCCCC2)C | C21H23N3O2
